US07790892B2
(4) Synthesis of 9-(4-diphenylaminophenyl)-10-(4-(2,2-diphenylvinyl)phenyl)anthracene (Synthesis of Compound (A5))
Under an atmosphere of argon, 9-(4-chlorophenyl)-10-(4-(2,2-diphenylvinyl)phenyl)anthracene (2.4 g, 4.4 mmole), diphenylamine (0.9 g, 5.3 mmole, 1.2 eq), tris(dibenzylideneacetone)dipalladium(0) (0.1 g, 0.11 mmole, 5% Pd), a toluene solution of tri-t-butylphosphine (66% by weight, 0.05 ml, 0.16 mmole, 0.7 eq to Pd) and sodium t-butoxide (0.6 g, 6.3 mmole, 1.4 eq) were suspended in anhydrous toluene (20 ml). The resultant suspension was refluxed for 8 hours. The reaction mixture was filtered and washed with toluene, water and methanol, and a green solid substance was obtained. The obtained solid substance was suspended in boiling toluene (40 ml). After the suspension was cooled while being left standing, the suspension was filtered, and a green solid substance (2.4 g, 81%) was obtained. The result of examination of the obtained product in accordance with 1H-NMR was as follows:

reactant | 9-(4-chlorophenyl)-10-(4-(2,2-diphenylvinyl)phenyl)anthracene | 4.4 mmole, 2.4 g | ClC1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=C(C=C1)C=C(C1=CC=CC=C1)C1=CC=CC=C1 | C40H27Cl
reactant | diphenylamine | 5.3 mmole, 0.9 g, 1.2 eq | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | tri-t-butylphosphine | 0.16 mmole, 0.05 ml, 0.7 eq | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium t-butoxide | 6.3 mmole, 0.6 g, 1.4 eq | CC(C)([O-])C.[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.11 mmole, 0.1 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 9-(4-diphenylaminophenyl)-10-(4-(2,2-diphenylvinyl)phenyl)anthracene | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=C(C=C1)C=C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C52H37N
